US09403846B2
Step 4. Synthesis of N-[(4aR,6R,8aS)-8a-(2,4-difluorophenyl)-6-(tetrahydrofuran-2-yl)-4,4a,5,6,8,8a-hexahydropyrano[3,4-d][1,3]thiazin-2-yl]benzamide (C13)
Trifluoromethanesulfonic anhydride (12.5 μL, 76 μmol) was added drop-wise to a −78° C. solution of N-[(4aR,6R,8aS)-8a-(2,4-difluorophenyl)-6-(1,4-dihydroxybutyl)-4,4a,5,6,8,8a-hexahydropyrano[3,4-d][1,3]thiazin-2-yl]benzamide (C12) (18 mg, 38 μmol) and 2,6-dimethylpyridine (17.6 μL, 152 μmol) in dichloromethane (0.65 mL), and the reaction mixture was allowed to gradually warm to 0° C. over 30 minutes. The reaction mixture was partitioned between dichloromethane (10 mL) and water (5 mL), and the organic layer was washed with water (2×5 mL) and with saturated aqueous sodium chloride solution (5 mL), then dried over sodium sulfate, filtered and concentrated in vacuo. Silica gel chromatography (Gradient: 0% to 60% ethyl acetate in heptane) afforded the product as an off-white foam. Yield: 14.7 mg, 32.1 μmol, 84%. LCMS m/z 459.2 [M+H+]. 1H NMR (400 MHz, CDCl3), characteristic peaks: δ 8.23 (br d, J=7.6 Hz, 2H), 7.36-7.55 (m, 4H), 6.84-6.97 (m, 2H), 4.17 (br d, J=12 Hz, 1H), 3.76-3.94 (m, 4H), 3.63-3.70 (m, 1H), 3.11-3.20 (m, 1H), 3.03 (dd, J=12.8, 4.2 Hz, 1H), 2.65 (br d, J=13 Hz, 1H), 1.83-2.06 (m, 4H).

reactant | Trifluoromethanesulfonic anhydride | 76 μmol, 12.5 μL | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
reactant | N-[(4aR,6R,8aS)-8a-(2,4-difluorophenyl)-6-(1,4-dihydroxybutyl)-4,4a,5,6,8,8a-hexahydropyrano[3,4-d][1,3]thiazin-2-yl]benzamide | 38 μmol, 18 mg | FC1=C(C=CC(=C1)F)[C@@]12N=C(SC[C@@H]1C[C@@H](OC2)C(CCCO)O)NC(C2=CC=CC=C2)=O | C24H26F2N2O4S
reactant | 2,6-dimethylpyridine | 152 μmol, 17.6 μL | CC1=NC(=CC=C1)C | C7H9N
solvent | dichloromethane | 0.65 mL | ClCCl | CH2Cl2
product | N-[(4aR,6R,8aS)-8a-(2,4-difluorophenyl)-6-(tetrahydrofuran-2-yl)-4,4a,5,6,8,8a-hexahydropyrano[3,4-d][1,3]thiazin-2-yl]benzamide | FC1=C(C=CC(=C1)F)[C@@]12N=C(SC[C@@H]1C[C@@H](OC2)C2OCCC2)NC(C2=CC=CC=C2)=O | C24H24F2N2O3S
